US04208415
(a) 4-[2-(2-Chlorophenyl)ethyl]pyridine
14.1 g. (0.1 mole) of 2-chlorobenzaldehyde and 9.4 g. (0.1 mole) or 4-methylpyridine are refluxed for six hours in 40ml. of acetic anhydride. The reaction mixture is concentrated in vacuo and then dissolved in 200 ml. of chloroform. The chloroform solution is washed with aqueous sodium bicarbonate, dried with MgSO4, filtered and concentrated in vacuo. The oily residue is dissolved in isopropanol and treated with HCl in isopropanol until acidic. The crystalline hydrochloride salt is filtered, dissolved in 150 ml. of water and neutralized with aqueous sodium bicarbonate. The product is extracted with chloroform to yield 12.6 g. of oil 4-[2-(2-chlorophenyl)ethenyl]pyridine.

reactant | 2-chlorobenzaldehyde | 0.1 mole | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | 4-methylpyridine | CC1=CC=NC=C1 | C6H7N
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-[2-(2-chlorophenyl)ethenyl]pyridine | ClC1=C(C=CC=C1)C=CC1=CC=NC=C1 | C13H10ClN
product | 4-[2-(2-Chlorophenyl)ethyl]pyridine | ClC1=C(C=CC=C1)CCC1=CC=NC=C1 | C13H12ClN
